US07094780B1
2-Cyclopropylamino-4,5-difluorobenzoic acid
To a solution of 4,5-difluoroanthranilic acid (1.13 g, 6.53 mmol) in anhydrous methanol (40 mL) is added molecular sieves (3 Å), acetic acid (3.70 mL, 65.3 mmol) and [(1-ethoxycyclopropyl)oxy]trimethylsilane (5.25 mL, 26.11 mmol). After 30 minutes, sodium cyanoborohydride (2.08 g, 32.64 mmol) is added, and the reaction mixture is heated to reflux. After 16 hours, the reaction is cooled to room temperature, filtered, washed with methanol, and the combined filtrate concentrated under vacuum to afford a viscous oil. The resulting oil is dissolved in ethyl acetate and washed with 1.0 M hydrochloric acid, water, and brine. The organic layer is dried over MgSO4, filtered, and the filtrate is concentrated under vacuum to afford as a beige solid (1.32 g). MS CI: m/z 212 (M+).

reactant | 4,5-difluoroanthranilic acid | 6.53 mmol, 1.13 g | FC=1C=C(C(C(=O)O)=CC1F)N | C7H5F2NO2
reactant | acetic acid | 65.3 mmol, 3.70 mL | C(C)(=O)O | C2H4O2
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 26.11 mmol, 5.25 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 32.64 mmol, 2.08 g | C(#N)[BH3-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropylamino-4,5-difluorobenzoic acid | 1.32 g | C1(CC1)NC1=C(C(=O)O)C=C(C(=C1)F)F | C10H9F2NO2
